US07968552B2
In an atmosphere of nitrogen, a THF solution of methylmagnesium iodide was dropwise added under ice-cooling to a THF solution of 1-[(3′-{[4-(hydroxymethyl)phenoxy]methyl}-2,6-dimethylbiphenyl-4-yl)oxy]acetone, followed by stirring at room temperature for 30 minute to obtain 1-[(3′-{[4-(hydroxymethyl)phenoxy]methyl}-2,6-dimethylbiphenyl-4-yl)oxy]-2-methylpropan-2-ol.

reactant | methylmagnesium iodide | C[Mg]I
reactant | 1-[(3′-{[4-(hydroxymethyl)phenoxy]methyl}-2,6-dimethylbiphenyl-4-yl)oxy]acetone | OCC1=CC=C(OCC=2C=C(C=CC2)C2=C(C=C(C=C2C)OCC(=O)C)C)C=C1 | C25H26O4
solvent | THF | C1CCOC1 | C4H8O
product | 1-[(3′-{[4-(hydroxymethyl)phenoxy]methyl}-2,6-dimethylbiphenyl-4-yl)oxy]-2-methylpropan-2-ol | OCC1=CC=C(OCC=2C=C(C=CC2)C2=C(C=C(C=C2C)OCC(C)(O)C)C)C=C1 | C26H30O4
